US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrochloride
A solution of 6 g of 4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4ol in 30 ml of ethyl acetate was made acid by adding, dropwise, 15% ethanolic hydrochloric acid. The solution was triturated to crystallize, allowed to stand over night at 0° C and the crystals were filtered off.

reactant | 4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4ol | 6 g | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC(C)C)C)O)S(N)(=O)=O | C13H18ClN3O3S2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC(C)C)C)O)S(N)(=O)=O | InChI=1S/C13H18ClN3O3S2.ClH/c1-8(2)16-12-17(3)13(18,7-21-12)9-4-5-10(14)11(6-9)22(15,19)20;/h4-6,8,18H,7H2,1-3H3,(H2,15,19,20);1H
